US06455548B2
To a solution of 1 g (5 mmol) of 1-t-butoxycarbonyl-4-hydroxypiperidine and 2.8 g (15 mmol) of 1-iodobutane in 5 mL of DMP was added 330 mg (11 mmol) of NaH (80% dispersion in mineral oil) and the mixture was heated to 40° C. After 5 h, 20 mL of H2O was added to the reaction mixture and it was extracted with ethyl acetate. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl acetate=4:1) to give 1-t-butoxycarbonyl-4-(butoxy)piperidine. Removal of the BOC protecting group was achieved as described in Example 4, Step 2 to give the title compound.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 5 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 1-iodobutane | 15 mmol, 2.8 g | ICCCC | C4H9I
reactant | NaH | 11 mmol, 330 mg | [H-].[Na+]
solvent | H2O | 20 mL | O | H2O
product | 1-t-butoxycarbonyl-4-(butoxy)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)OCCCC | C14H27NO3
